US08981085B2
4N HCl in dioxane (3.29 mL, 13.2 mmol) was added to a solution of cis-tert-butyl 3-(benzyloxycarbonylamino)-4-fluoropiperidine-1-carboxylate (0.58 g, 1.65 mmol) in DCM (3 mL) at room temperature. The reaction mixture was stirred at room temperature for 2 hours. The solvent was removed in vacuo. The resulting solid was dissolved in water (5 mL) and extracted with ether (10 mL). The resulting aqueous layer was basified with 30% potassium carbonate to a pH of about 10 and extracted with DCM (2×30 mL). The combined organic layer was dried (sodium sulfate) and concentrated in vacuo to give benzyl-cis-4-fluoropiperidin-3-ylcarbamate (0.39 g, 94%) as a solid.

reactant | HCl | 4N | Cl | ClH
reactant | dioxane | 13.2 mmol, 3.29 mL | O1CCOCC1 | C4H8O2
reactant | cis-tert-butyl 3-(benzyloxycarbonylamino)-4-fluoropiperidine-1-carboxylate | 1.65 mmol, 0.58 g | C(C1=CC=CC=C1)OC(=O)N[C@@H]1CN(CC[C@@H]1F)C(=O)OC(C)(C)C | C18H25FN2O4
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | benzyl-cis-4-fluoropiperidin-3-ylcarbamate | 0.39 g, 94% | C(C1=CC=CC=C1)OC(N[C@@H]1CNCC[C@@H]1F)=O | C13H17FN2O2
